Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Advil / Motrin / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
Multinodular goiter.

 
Major Surgical or Invasive Procedure:
Total thyroidectomy, intraoperative nerve monitoring.

 
History of Present Illness:
The patient is a ___ woman who was recently diagnosed 
with bilateral thyroid nodules. The patient has an approximately 
1.1 cm nodule in the right thyroid lobe and 2 nodules measuring 
1.1 and 1.5 cm, respectively, in the left thyroid lobe.An 
ultrasound-guided fine-needle aspiration biopsy from the 
right-sided thyroid nodule yielded cytology that was suspicious 
for a follicular neoplasm. After discussion of different 
management options,the patient presents today for total 
thyroidectomy.Risks and benefits associated with the procedure 
have been discussed in great detail, and the consent form has 
been signed.

 
Past Medical History:
Previous Medical History:  The patient is previously mainly
healthy.

Previous Surgical History:  Tonsillectomy in childhood.

 
Social History:
___
Family History:
No family history of thyroid cancer.

 
Physical Exam:
Gen: well appearing, NAD, clear phonation
HEENT:no hematoma, dressing C/D/I, no neck fullness 
Cardiac:regular rate rhythm 
Pulmonary: clear, no stridor
Abdomen:soft,nontender, nondistended
Ext: WWP, no CCE

 
Pertinent Results:
___ 01:46AM BLOOD Calcium-8.0*
 
Brief Hospital Course:
Ms. ___ is a ___ with history of multiple thyroid nodules 
s/p total thyroidectomy. The patient tolerated the procedure 
well. Please see operative note for further details. After a 
brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management. 
Her hospital course was stable. 
Postoperatively she reported incisional pain and a sore throat 
which was managed with Tylenol/cepacol lozenges; patient 
declined oral narcotics. Her diet was advanced as tolerated and 
fluids were discontinued and she voided without difficulty. 
Postoperatively, the patient was started on thyroid hormone 
replacement. POD 1, serum calcium level was 8.0. She had no 
symptoms of hypocalcemia and was started on oral calcium 
supplementation and was discharged home with follow-up 
instructions.
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H pain 
2. Calcium Carbonate 1500 mg PO TID 
RX *calcium carbonate [Tums] 200 mg calcium (500 mg) 3 tablet(s) 
by mouth three times a day Disp #*270 Tablet Refills:*0
3. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat 
4. Levothyroxine Sodium 112 mcg PO DAILY 
RX *levothyroxine 112 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multinodular goiter.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a diet and may return home to continue your 
recovery. 
You will be discharged home on thyroid hormone 
replacement(Levothyroxine) and calcium supplement (Tums), please 
take as prescribed. Monitor for signs and symptoms of low 
Calcium such as numbness or tingling around mouth or fingertips. 
If you experience any of these signs or symptoms please call Dr. 
___ or go to emergency room if you have severe 
symptoms. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen (Tylenol) 
as directed, but do not exceed 4000 mg in one day. Please get 
plenty of rest, continue to walk several times per day, and 
drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own. 

Thank you for allowing us to participate in your care.

 
 
Followup Instructions:
___